*
*|DSPF 1.5
*
*|DATE "Sun Jan 14 12:27:10 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "ADDHX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.1/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  ADDHX1 A B CO S
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 8.40406e-16
*|P (A X 0 2.2940 2.0180)
*|I (MX36/M0#g MX36/M0 g X 0 2.2550 0.8025)
*|I (MX35/M0#g MX35/M0 g X 0 4.0650 0.8025)
*|I (MX44/M0#g MX44/M0 g X 0 2.2550 3.2375)
*|I (MM2#g MM2 g X 0 4.0650 3.2375)
*|S (A#13 2.2850 1.7600)
*|S (A#14 4.0650 1.7600)
*|S (A#16 2.3000 1.7600)
C1 MM2#g VSS 5.21114e-17
C2 MX44/M0#g VSS 5.61863e-17
C3 MX35/M0#g VSS 5.10651e-17
C4 MX36/M0#g VSS 4.58346e-17
C5 A#13 VSS 1.7758e-16
C6 A#14 VSS 1.93323e-16
C7 A VSS 2.64306e-16
Rg1 MX44/M0#g A#13 451.205536 $W=0.15
Rg2 A#13 MX36/M0#g 284.112213 $W=0.15
Rg3 MM2#g A#14 455.929077 $W=0.15
Rg4 A#14 MX35/M0#g 288.835754 $W=0.15
Rf5 A#14 A#16 147.894119 $W=0.17
Rf6 A#16 A#13 16.129412 $W=0.17
Re7 A A#16 152.124039 $W=0.26
*
*|NET B 9.87853e-16
*|P (B X 0 3.6920 2.4330)
*|I (MX43/M0#g MX43/M0 g X 0 1.3950 0.8025)
*|I (MX32/M0#g MX32/M0 g X 0 2.6850 0.8025)
*|I (MX30/M0#g MX30/M0 g X 0 3.6350 0.8025)
*|I (MX37/M0#g MX37/M0 g X 0 2.6850 3.2375)
*|I (MX33/M0#g MX33/M0 g X 0 3.6350 3.2375)
*|I (MM1#g MM1 g X 0 1.8250 3.2375)
*|S (B#19 1.8200 2.1750)
*|S (B#20 2.8200 2.1750)
*|S (B#21 3.5750 2.1750)
*|S (B#22 3.5750 2.1750)
*|S (B#23 3.6800 2.1750)
*|S (B#24 2.8200 2.1750)
C8 MM1#g VSS 5.06175e-17
C9 MX33/M0#g VSS 5.36363e-17
C10 MX37/M0#g VSS 5.27498e-17
C11 MX30/M0#g VSS 4.3516e-17
C12 MX32/M0#g VSS 4.65245e-17
C13 MX43/M0#g VSS 4.36019e-17
C14 B#19 VSS 1.28348e-16
C15 B#20 VSS 1.42584e-16
C16 B#21 VSS 9.13967e-17
C17 B VSS 3.34878e-16
Rg8 MM1#g B#19 322.575745 $W=0.15
Rg9 B#19 MX43/M0#g 495.890503 $W=0.15
Rg10 MX37/M0#g B#20 349.059326 $W=0.15
Rg11 B#20 MX32/M0#g 438.636658 $W=0.15
Rg12 MX33/M0#g B#21 327.299255 $W=0.15
Rg13 B#21 MX30/M0#g 426.912598 $W=0.15
Rf14 B#22 B#23 5.376000 $W=0.25
Rf15 B#22 B#24 56.847057 $W=0.17
Rf16 B#24 B#19 90.294113 $W=0.17
Rf17 B#21 B#22 15.000000 $W=0.0289
Rf18 B#20 B#24 15.000000 $W=0.0289
Re19 B B#23 152.124039 $W=0.26
*
*|NET CO 6.21828e-16
*|P (CO X 0 4.6120 1.9230)
*|I (MX42/M0#d MX42/M0 d X 0 4.6305 0.9700)
*|I (MX39/M0#d MX39/M0 d X 0 4.6305 2.9850)
*|S (CO#2 4.7700 2.7650)
*|S (CO#3 4.7700 1.0050)
C18 MX42/M0#d VSS 7.29959e-17
C19 CO#3 VSS 1.44645e-16
C20 CO#2 VSS 2.74492e-16
C21 CO VSS 1.29696e-16
Rf20 MX39/M0#d CO#2 10.991489 $W=0.47
Rf21 CO#3 MX42/M0#d 8.423712 $W=0.485
Re22 CO#2 CO 76.363792 $W=0.26
Re23 CO CO#3 76.400330 $W=0.26
*
*|NET S 6.79792e-16
*|P (S X 0 0.4720 1.9180)
*|I (MX41/M0#d MX41/M0 d X 0 0.3995 0.9700)
*|I (MX38/M0#d MX38/M0 d X 0 0.3995 2.9850)
*|S (S#2 0.2600 2.7650)
*|S (S#3 0.2600 1.0050)
C22 MX41/M0#d VSS 7.90406e-17
C23 S#3 VSS 1.46921e-16
C24 S#2 VSS 3.1271e-16
C25 S VSS 1.41121e-16
Rf24 MX38/M0#d S#2 10.991489 $W=0.47
Rf25 S#3 MX41/M0#d 8.423712 $W=0.485
Re26 S#2 S 76.363678 $W=0.26
Re27 S S#3 76.395409 $W=0.26
*
*|NET 2 1.21831e-15
*|I (MX42/M0#g MX42/M0 g X 0 4.5550 0.9700)
*|I (MX30/M0#d MX30/M0 d X 0 3.5595 0.8025)
*|I (MX39/M0#g MX39/M0 g X 0 4.5550 2.9850)
*|I (MX33/M0#s MX33/M0 s X 0 3.7105 3.2375)
*|I (MM2#s MM2 s X 0 3.9895 3.2375)
*|S (2 4.6150 2.1450)
*|S (2#8 3.4200 0.8500)
*|S (2#10 3.8500 3.3650)
*|S (2#13 4.0650 2.1800)
C26 MX33/M0#s VSS 1.00782e-16
C27 MX39/M0#g VSS 6.72576e-17
C28 MX30/M0#d VSS 6.77595e-17
C29 MX42/M0#g VSS 5.55768e-17
C30 2#8 VSS 2.08261e-16
C31 2#10 VSS 2.06121e-16
C32 2#13 VSS 4.23622e-16
C33 2 VSS 8.89341e-17
Rg28 MX39/M0#g 2 255.802612 $W=0.15
Rg29 2 MX42/M0#g 363.449280 $W=0.15
Rf30 2#8 MX30/M0#d 18.764706 $W=0.17
Rf31 2#10 MX33/M0#s 24.788235 $W=0.17
Rf32 2 2#13 206.363770 $W=0.17
Re33 2#10 2#13 152.679382 $W=0.23
Re34 2#13 2#8 152.963058 $W=0.23
Rmw35 MM2#s MX33/M0#s 0.001000 $W=1000000
*
*|NET 3 1.40823e-15
*|I (MX43/M0#d MX43/M0 d X 0 1.4705 0.8025)
*|I (MX41/M0#g MX41/M0 g X 0 0.4750 0.9700)
*|I (MX31/M0#d MX31/M0 d X 0 1.7495 0.8025)
*|I (MX40/M0#d MX40/M0 d X 0 1.4705 3.2375)
*|I (MX38/M0#g MX38/M0 g X 0 0.4750 2.9850)
*|I (MM1#s MM1 s X 0 1.7495 3.2375)
*|S (3 0.4750 2.9850)
*|S (3#7 0.4150 1.7600)
*|S (3#8 1.6100 3.3450)
*|S (3#11 1.6100 0.7590)
*|S (3#12 1.3350 1.7600)
C34 MX40/M0#d VSS 1.28785e-16
C35 MX41/M0#g VSS 5.31046e-17
C36 3#12 VSS 4.35088e-16
C37 3#11 VSS 2.78667e-16
C38 3#8 VSS 3.23822e-16
C39 3#7 VSS 1.1782e-16
C40 3 VSS 7.09477e-17
Rg36 3 3#7 379.515930 $W=0.15
Rg37 3#7 MX41/M0#g 239.735947 $W=0.15
Rf38 3#8 MX40/M0#d 23.282352 $W=0.17
Rf39 MX43/M0#d 3#11 18.087059 $W=0.17
Rf40 3#12 3#7 236.270584 $W=0.17
Re41 3#8 3#12 152.922638 $W=0.23
Re42 3#12 3#11 152.686005 $W=0.23
Rmw43 MX31/M0#d MX43/M0#d 0.001000 $W=1000000
Rmw44 MX38/M0#g 3 0.001000 $W=1000000
Rmw45 MM1#s MX40/M0#d 0.001000 $W=1000000
*
*|NET 4 1.85002e-15
*|I (MX36/M0#d MX36/M0 d X 0 2.1795 0.8025)
*|I (MX34/M0#g MX34/M0 g X 0 0.9650 0.8025)
*|I (MX31/M0#s MX31/M0 s X 0 1.9005 0.8025)
*|I (MX44/M0#d MX44/M0 d X 0 2.1795 3.2375)
*|I (MM0#g MM0 g X 0 0.9650 3.2375)
*|I (MM1#d MM1 d X 0 1.9005 3.2375)
*|S (4 0.9650 3.2375)
*|S (4#7 0.9650 2.1450)
*|S (4#9 0.9650 2.1450)
*|S (4#11 2.0400 3.0900)
*|S (4#12 2.0400 0.8500)
C41 MX34/M0#g VSS 4.68862e-17
C42 MX36/M0#d VSS 9.02933e-17
C43 4#9 VSS 4.62207e-16
C44 4#12 VSS 3.43109e-16
C45 4#11 VSS 7.97262e-16
C46 4#7 VSS 6.84464e-17
C47 4 VSS 4.18154e-17
Rg46 4 4#7 332.215759 $W=0.15
Rg47 4#7 MX34/M0#g 412.549103 $W=0.15
Rf48 4#7 4#9 15.000000 $W=0.17
Rf49 MX44/M0#d 4#11 177.917648 $W=0.17
Rf50 4#12 MX36/M0#d 18.764706 $W=0.17
Re51 4#12 4#11 153.840897 $W=0.17
Re52 4#11 4#9 154.172043 $W=0.17
Rmw53 MX31/M0#s MX36/M0#d 0.001000 $W=1000000
Rmw54 MM0#g 4 0.001000 $W=1000000
Rmw55 MM1#d MX44/M0#d 0.001000 $W=1000000
*
*|NET 5 1.21833e-15
*|I (MX32/M0#d MX32/M0 d X 0 2.7605 0.8025)
*|I (MX31/M0#g MX31/M0 g X 0 1.8250 0.8025)
*|I (MX40/M0#g MX40/M0 g X 0 1.3950 3.2375)
*|I (MX37/M0#d MX37/M0 d X 0 2.7605 3.2375)
*|S (5#7 1.3950 2.6500)
*|S (5 1.8250 1.2900)
*|S (5#10 2.9000 3.2350)
*|S (5#11 2.9000 3.0900)
*|S (5#14 2.9000 0.8000)
*|S (5#15 2.9000 0.8500)
C48 MX40/M0#g VSS 4.81153e-17
C49 MX31/M0#g VSS 3.64843e-17
C50 MX32/M0#d VSS 1.38647e-16
C51 5#15 VSS 2.17095e-16
C52 5#11 VSS 3.79899e-16
C53 5#7 VSS 2.09375e-16
C54 5 VSS 1.88712e-16
Rg56 MX40/M0#g 5#7 169.942413 $W=0.15
Rg57 MX31/M0#g 5 137.809082 $W=0.15
Rf58 5#10 5#11 10.917646 $W=0.17
Rf59 5#11 5#7 155.798798 $W=0.17
Rf60 MX37/M0#d 5#10 15.000000 $W=0.17
Rf61 5#14 5#15 3.764706 $W=0.17
Rf62 5#15 5 123.422318 $W=0.17
Rf63 MX32/M0#d 5#14 15.000000 $W=0.17
Re64 5#11 5#15 305.217407 $W=0.23
*
*|NET 17 1.0495e-16
*|I (MX43/M0#s MX43/M0 s X 0 1.3195 0.8025)
*|I (MX34/M0#d MX34/M0 d X 0 1.0405 0.8025)
*|S (17 1.1800 0.8450)
C55 17 VSS 1.0495e-16
Rmw65 MX43/M0#s 17 0.001000 $W=1000000
Rmw66 MX34/M0#d 17 0.001000 $W=1000000
*
*|NET 19 1.04984e-16
*|I (MX40/M0#s MX40/M0 s X 0 1.3195 3.2375)
*|I (MM0#d MM0 d X 0 1.0405 3.2375)
*|S (19 1.1800 3.1350)
C56 19 VSS 1.04984e-16
Rmw67 MX40/M0#s 19 0.001000 $W=1000000
Rmw68 MM0#d 19 0.001000 $W=1000000
*
*|NET 21 8.41594e-17
*|I (MX35/M0#d MX35/M0 d X 0 3.9895 0.8025)
*|I (MX30/M0#s MX30/M0 s X 0 3.7105 0.8025)
*|S (21 3.8500 0.8450)
C57 21 VSS 8.41594e-17
Rmw69 MX35/M0#d 21 0.001000 $W=1000000
Rmw70 MX30/M0#s 21 0.001000 $W=1000000
*
*Instance Section
*
MX43/M0	MX43/M0#d	MX43/M0#g	MX43/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX42/M0	MX42/M0#d	MX42/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX41/M0	MX41/M0#d	MX41/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX36/M0	MX36/M0#d	MX36/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX35/M0	MX35/M0#d	MX35/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX34/M0	MX34/M0#d	MX34/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX31/M0	MX31/M0#d	MX31/M0#g	MX31/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	MX30/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX44/M0	MX44/M0#d	MX44/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX40/M0	MX40/M0#d	MX40/M0#g	MX40/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX39/M0	MX39/M0#d	MX39/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX38/M0	MX38/M0#d	MX38/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX37/M0	MX37/M0#d	MX37/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX33/M0	VDD	MX33/M0#g	MX33/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM0	MM0#d	MM0#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM1	MM1#d	MM1#g	MM1#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM2	VDD	MM2#g	MM2#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
